US04806549
A mixture of ethyl 2-butyryl-3-ethoxyacrylate (95 g, 0.4 mol) and aniline (36 ml, 0.4 mol) was heated at reflux for 30 minutes, then cooled, diluted with petroleum ether, and left to crystallise at -20° overnight. Filtration and washing gave ethyl 2-butyryl-3-(phenylamino)acrylate (72 g, 60%) as a mixture of E and Z isomers.

reactant | ethyl 2-butyryl-3-ethoxyacrylate | 0.4 mol, 95 g | C(CCC)(=O)C(C(=O)OCC)=COCC | C11H18O4
reactant | aniline | 0.4 mol, 36 ml | NC1=CC=CC=C1 | C6H7N
product | ethyl 2-butyryl-3-(phenylamino)acrylate | 72 g, 60% | C(CCC)(=O)C(C(=O)OCC)=CNC1=CC=CC=C1 | C15H19NO3
